US07230011B2
2,6-Difluorobenzenesulfonic acid 1-benzyl-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
By a method similar to Example 56, using 1-benzyl-7-methyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole (1.81 mmol, 0.604 g) in THF (4.5 mL), sodium hydride (2.17 mmol, 0.087 g, 60% dispersion in mineral oil), and 2,6-diflurobenzenesulfonyl chloride (1.99 mmol, 0.422 g) afforded 0.411 g (45%) of the title compound: mp=158° C.; mass spectrum (ion spray): m/z=511 (M+1); 1H NMR (DMSOd6): 7.96-7.86 (m, 1H), 7.41 (dd, J=5.73, 3.48 Hz, 2H), 7.31-7.19 (m, 4H), 6.94 (d, J=2.20 Hz, 1H), 6.82 (d, J=6.59 Hz, 2H), 6.62 (d, J=1.87 Hz, 1H), 5.55 (s, 2H), 2.81-2.77 (m, 2H), 2.56-2.42 (m, 1H), 2.36 (s, 3H), 2.20 (s, 3H), 1.96 (m, 2H), 1.72-1.67 (m, 2H), 1.53 (m, 2H); Calculated for C28H28F2N2O3S-0.3H2O: C, 65.17; H, 5.59; N, 5.43. Found: C, 65.27; H, 5.47; N, 5.49.

reactant | 1-benzyl-7-methyl-3-(1-methylpiperdin-4-yl)-5-hydroxy-1H-indole | 1.81 mmol, 0.604 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC(=C12)C)O)C1CCN(CC1)C | C22H26N2O
reactant | sodium hydride | 2.17 mmol, 0.087 g | [H-].[Na+]
reactant | 2,6-diflurobenzenesulfonyl chloride | 1.99 mmol, 0.422 g | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | 2,6-Difluorobenzenesulfonic acid 1-benzyl-7-methyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 0.411 g, 45% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC(=C12)C)OS(=O)(=O)C1=C(C=CC=C1F)F)C1CCN(CC1)C | C28H28F2N2O3S
